US07745153B2
Preparation of Pyrocatechol Violet-Molybdenum Complex Assay Reagent Stock
In 940 ml of ultra pure water, 5.9 g succinic acid, 0.14 g sodium oxalate and 0.5 g sodium benzoate was dissolved. Pyrocatechol violet solution (100 mg dissolved in 40 ml methanol) was added followed by the addition of 16 ml sodium molybdate solution (120 mg dissolved in 50 ml ultrapure water). The pH was adjusted to 2.5 using 50% v/v HCl solution followed by the addition of 2 g polyvinyl alcohol (30-70 kD) and 1 g polyvinyl pyrrolidone (55 kD). The solution was stirred overnight at about 20° C. to about 25° C., e.g. room temperature.

reactant | succinic acid | 5.9 g | C(CCC(=O)O)(=O)O | C4H6O4
reactant | sodium oxalate | 0.14 g | C(C(=O)[O-])(=O)[O-].[Na+].[Na+]
reactant | sodium benzoate | 0.5 g | C(C1=CC=CC=C1)(=O)[O-].[Na+]
reactant | Pyrocatechol violet | 40 ml, 100 mg | C=1C=CC(=C(C1)/C(=C/2\C=CC(=O)C(=C2)O)/C=3C=CC(=C(C3)O)O)S(=O)(=O)O | C19H14O7S
reactant | sodium molybdate | 16 ml, 120 mg | [O-][Mo](=O)(=O)[O-].[Na+].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 940 ml | O | H2O
product | Pyrocatechol Violet Molybdenum | C=1C=CC(=C(C1)/C(=C/2\C=CC(=O)C(=C2)O)/C=3C=CC(=C(C3)O)O)S(=O)(=O)O.[Mo] | InChI=1S/C19H14O7S.Mo/c20-14-7-5-11(9-16(14)22)19(12-6-8-15(21)17(23)10-12)13-3-1-2-4-18(13)27(24,25)26;/h1-10,20,22-23H,(H,24,25,26);/b19-12+;
